US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(3-methylpiperidin-1-yl)isonicotinamide
A solution of 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide (50 mg, 0.12 mmol) in 3-methylpiperidine (1 ml) was heated at 120° C. for 18 h in a sealed tube. The reaction was concentrated under vacuum, the residue chromatographed on an SPE (C18) eluting with a water/acetonitrile gradient, to give, after evaporation of the solvents under vacuum N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(3-methylpiperidin-1-yl)isonicotinamide (16 mg). NMR; δH [2H6]—DMSO includes 10.28,(1H, s), 8.62,(1H, t), 8.21,(1H, d), 7.93,(2H, d), 7.70,(1H, dd), 7.65,(1H, d), 7.44,(2H, d), 7.30,(1H, d), 7.20,(1H, s), 6.98,(1H, d), 4.26,(2H, m), 3.16,(2H, t), 2.80,(1H, m), 2.20,(3H, s), 1.78,(1H, m), 1.68,(1H, m), 1.57,(1H, m), 1.45,(1H, m), 1.15,(1H, m), 1.04,(1H, m),0.91,(2H, d), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.54 min, MH+483.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | 0.12 mmol, 50 mg | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | 3-methylpiperidine | 1 ml | CC1CNCCC1 | C6H13N
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(3-methylpiperidin-1-yl)isonicotinamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)N1CC(CCC1)C)=O | C30H34N4O2
